US07244843B2
To a solution of N-(t-butoxycarbonyl)-3,4-dihydro-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (0.20 g, 0.54 mmol) in methanol (10 mL) was added palladium on carbon (20 mg, 10 wt %; Aldrich). The resulting mixture was degassed (vacuum then argon, ×3) and subjected to a hydrogen atmosphere (60 psi) for 12 hr. The mixture was then filtered, and the filtrate was concentrated. The resulting residue was purified by flash column chromatography (SiO2, 0–50% ethyl acetate in hexanes) to afford N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (0.19 g, 94%) as a white solid. MS (ESI) 371 (M+H).

reactant | N-(t-butoxycarbonyl)-3,4-dihydro-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.54 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1C(=C2N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1)C | C18H19F3N2O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-1-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.19 g, 94% | C(C)(C)(C)OC(=O)N1C(C2N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1)C | C18H21F3N2O3
